data/oMe_Silver.jsonl
{"reaction_id": "NR-116_1-c1ccccc1_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-C_4-C","name": "Japp-Klingemann Reaction","level": "medium","reactants_smiles": ["C(=O)(c1ccccc1)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)C(=O)OC","N#[N+]C"],"products_smiles": ["C(=O)(OC)C(=N[NH]C)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2"],"conditions": "[OH-]","mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[O-]C(=C(C(=O)OC)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)c1ccccc1","rationale": "Strong base deprotonates the acidic α-proton between carbonyls due to resonance stabilization of the resulting enolate."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(C(=O)OC)(C(=O)c1ccccc1)(N=NC)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","rationale": "The nucleophilic enolate carbon attacks the electrophilic diazonium nitrogen, driven by the strong electrophilicity of the diazonium group."},{"step": 3,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C(=O)OC)(C(O)([O-])(c1ccccc1))(N=NC)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","rationale": "Electrophilic addition of hydroxide to the carbonyl occurs due to increased electrophilicity from adjacent electron-withdrawing groups."},{"step": 4,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "C(=O)(OC)C(=N[N-]C)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","rationale": "Heterolytic cleavage occurs as the leaving group departs, stabilized by resonance in the resulting imine-like intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=O)(OC)C(=N[NH]C)CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2","rationale": "Proton transfer under basic conditions neutralizes the anionic nitrogen, yielding the stable hydrazone product."}],"description": "Under basic conditions, the α-proton of the β-keto acid is deprotonated to form an enolate, which nucleophilically attacks the diazonium species. Subsequent rearrangements and cleavages yield the hydrazone product, stabilized by conjugation with the carbonyl group."}
{"reaction_id": "NR-314_1-C_2-CCCC(C)C_3-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_4-C(F)(F)F","level": "medium","name": "Upjohn Dihydroxylation","reactants_smiles": ["C(C)(CCCC(C)C)=C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)","C[N+]1(CCOCC1)[O-]"],"products_smiles": ["C(O)(C)(CCCC(C)C)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)"],"conditions": "cat. OsO4, NMO, H2O","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "cycloaddition","intermediate_smiles": "C1(C)(CCCC(C)C)O[Os](=O)(=O)OC1(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)","step_weight": 0,"rationale": "The alkene’s π electrons coordinate to electrophilic Os(VIII) in OsO4, forming a cyclic osmate ester via concerted [3+2] cycloaddition, favored by strong osmium–oxygen π-acceptor interactions and minimal steric hindrance in the transition state."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(O)(C)(CCCC(C)C)C(O)(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(F)(F)F)","step_weight": 0,"rationale": "Water attacks the electrophilic osmium-bound carbons, cleaving the Os–O–C bonds; the good leaving ability of the osmium species and relief of ring strain drive formation of the cis-diol."},{"step": 3,"type": "electron_transfer","subtype": "single_electron_transfer","intermediate_smiles": "O=[Os](=O)(=O)=O","step_weight": 0,"rationale": "NMO oxidizes Os(VI) back to Os(VIII) via single-electron transfer, driven by N–O bond cleavage and the high thermodynamic stability of the reoxidized osmium species, allowing catalytic turnover."}],"description": "The alkene undergoes syn-dihydroxylation via OsO4-mediated [3+2] cycloaddition to form a cyclic osmate ester. Hydrolysis releases the cis-diol, and NMO reoxidizes Os(VI) to Os(VIII), enabling catalytic turnover under mild aqueous conditions."}
